US08486952B2
To a solution of 2,4-dichloro-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine (172 mg, 0.65 mmol) in NMP (2 mL) was added propan-2-amine (115 mg, 1.95 mmol) dropwise. The mixture was stirred at RT for 3 hrs. 8 mL of water was added to precipitate out the product. The solid was filtered out, air-dried, and purified via Biotage (12 g, hexanes-70% EtOAc) to give 2-chloro-N-isopropyl-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine (154 mg, 0.535 mmol, 82% yield). 1H NMR (500 MHz, CDCl3) δ ppm 7.30 (2H, t, J=7.5 Hz), 7.20-7.25 (1H, m), 7.15 (1H, d, J=1.5 Hz), 7.13 (1H, s), 4.53 (1H, d, J=7.3 Hz), 4.37-4.45 (1H, m), 4.23-4.28 (1H, m), 2.58-2.78 (3H, m), 2.10-2.17 (1H, m), 1.27-1.29 (6H, m).

reactant | 2,4-dichloro-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine | 0.65 mmol, 172 mg | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=CC=C2)Cl | C13H10Cl2N2
reactant | propan-2-amine | 1.95 mmol, 115 mg | CC(C)N | C3H9N
reactant | water | 8 mL | O | H2O
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
product | 2-chloro-N-isopropyl-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine | 0.535 mmol, 154 mg, 82% yield | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=CC=C2)NC(C)C | C16H18ClN3
